US04526890
1-Chloro-4-hydrazino-5,6,7,8-tetrahydro-5,8-ethanophthalazine (2.5 grams, 0.111 mol) was mixed with 150 milliliters of formic acid. The mixture was heated at the boiling temperature under reflux for 2 hours, then evaporated to dryness. The residue was triturated with saturated aqueous sodium bicarbonate. The resulting white solid was collected, washed with water and air dried to yield 23.0 grams (88% yield) of 6-chloro-7,8,9,10-tetrahydro-7,10-ethano(1,2,4)triazolo[3,4-a]phthalazine, melting at 137°-140° C. After recrystallization from a mixture of benzene and hexane the purified product melted at 140.5°-141° C. Infrared spectroscopy and elemental analysis confirmed the designated structure.

reactant | 1-Chloro-4-hydrazino-5,6,7,8-tetrahydro-5,8-ethanophthalazine | 0.111 mol, 2.5 grams | ClC1=NN=C(C=2C3CCC(C12)CC3)NN | C10H13ClN4
reactant | formic acid | 150 milliliters | C(=O)O | CH2O2
product | 6-chloro-7,8,9,10-tetrahydro-7,10-ethano(1,2,4)triazolo[3,4-a]phthalazine | 23.0 grams, 88% yield | ClC1=NN2C(C=3C4CCC(C13)CC4)=NN=C2 | C11H11ClN4
